Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Depression
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Briefly, ___ is a ___ y/o female at 10 wk gestation
with a history of depression who presents to the ___ ___ with
depression and inability to contract for safety at the 
suggestion
of her OB-social worker.
  
Patient declined a ___ interpreter. On interview, patient
states that she came to the hospital at the urging of her social
worker.  She says that she has a history of depression, and her
depression worsened on ___.  She says that it worsened
because of "personal issues" but does not want to talk about it
more. Per Dr. ___ consult note ___ is 
when
the patient realized that her boyfriend is cheating on her, and
the patient is also worried about her housing, given that she 
was
counting on her boyfriend. In addition, the patient's 
grandmother
recently died. 
On interview today, the patient also endorses decreased sleep,
fatigue, and decreased appetite. Denies SI/HI, however per ___ ___ note, when asked about SI earlier today, the
patient would become quiet then cried. 

Patient states that her depression is "an emotional problem not 
a
mental illness" and wants help for her depression, but does not
want to be labeled as "mentally ill."  She wants to becomes a
___ and is worried that receiving psychiatric help
means that she would not be able to become a police officer. 
  
Patient endorses increased anxiety but denies symptoms of panic
attacks such as SOB or palpitations. 
Patient denies auditory or visual hallucinations. 

 
Past Medical History:
POLYCISTIC OVARIAN SYNDROME                                     
ANXIETY                                                         
DEPRESSION  
 
Social History:
___
Family History:
- Completed or attempted suicide: denies
- Substance use or dependence: denies
- Mental Illness: sister has depression, has been hospitalized 
in
the ___.  
 
___:
General: female in NAD. Well-nourished, well-developed. Appears
stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:

Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Sensation: 
Intact
to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: states MYOB correctly 
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: average -  knows president and presidential
candidates 
Calculations: correctly states 7 quarters in $1.75
Abstraction: apple/orange = "shape"
Visuospatial: not assessed
Speech: soft, normal rate, rhythm and tone
Language: fluent ___ with mild accent, appropriate to
conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, mildly guarded, poor eye contact,
mild psychomotor retardation
Mood and Affect: "so-so" / dysthymic, constricted 
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: currently denies SI, denies HI, denies AH/VH, 
no
evidence of delusions or paranoia
Judgment and Insight: poor/poor

 
Pertinent Results:
___ 05:20PM BLOOD WBC-14.6* RBC-3.57* Hgb-11.5 Hct-34.1 
MCV-96 MCH-32.2* MCHC-33.7 RDW-11.5 RDWSD-40.6 Plt ___
___ 05:20PM BLOOD Glucose-70 UreaN-9 Creat-0.6 Na-133 K-4.1 
Cl-100 HCO3-20* AnGap-17
___ 05:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which was 
planned for expiration on ___. They were also placed on q15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Depression
Patient was noted to initially refuse planned antidepressant 
therapy with Zoloft, but later agreed to treatment. She was 
offered group and milieu therapy to assist with coping skills. 

3. SUBSTANCE USE DISORDERS:
#) N/A

4. MEDICAL
# Pregnancy 
- continue prenatal vitamins

# GERD
- Pt stated she did not take any reflux medications
- If pt having reflux sx while ___ discuss starting PPI 
or
H2 blocker while admitted

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient did not regularly attend these groups that focused on 
teaching patients various coping skills. Rather, she was spoken 
to in 1:1 sessions with OT. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Family meeting held on ___ reasons for patient's 
initial admission as well as reasonable plan of care upon 
discharge. ___ interpreter was present to ensure good 
understanding betw pt/her mother and treatment team. Obtain 
information from pt's mother. With pt's permission, answered 
mother's questions. Clear recommendation was given to pt to 
continue with services in the ___ clinic. Rec'd that pt 
initiates psychiatric treatment. Pt's mother is in agreement 
about that. Provided information regarding additional mental 
health resources to mother. Offered the same information to the 
pt, she was reluctant to take it but eventually agreed.

#) INTERVENTIONS
- Medications: Started on Zoloft 50mg daily
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Arranged appointments with pt's OB 
SW (with plans for appt following with affiliated psychiatrist) 
as well as PCP and maintained scheduled OB/GYN appt; during 
admission, pt indicated she may transfer her care to separate 
hospital and would not confirm that she would present for these 
appointments
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
Group therapy
-Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

Pt was also expressing concern about content of medical records. 
She was educated about appropriate steps how she can obtain 
medical records.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
depression and concern for increased risk of self-harm by 
patient's social worker.  Their static factors noted at that 
time include history of chronic mental illness.   The modifiable 
risk factors seen included acutely stressful events, unstable 
housing, longstanding depression, limited social support, recent 
personal loss, no medication, and lack of current outpatient 
treaters. Finally, the patient is being discharged with many 
protective risk factors, including  help-seeking, lack of prior 
suicide attempts, and pregnancy. Overall, Based on the totality 
of our assessment at this time, the patient does not appear to 
be at an acutely elevated risk of self-harm nor danger to 
others. Therefore, patient appears to be clinically stable for 
discharge.

Our Prognosis of this patient is, guarded. While pt formally 
denies any intend to hurt herself. Her impulsivity has been 
concerning. E.g., pt was considering switch of her entire care 
to a different hospital after this admission. Pt seems to 
underestimate importance of that step and its risk. Pt already 
has established care w her OB-GYN team, she is currently 
pregnant.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth Daily Disp #*14 Tablet 
Refills:*0 
2.  Prenatal Vitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for depression.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___